US05194472
2-Phenyl-1,3-dioxolane
A solution of 106.12 g (1.0 mol) of benzaldehyde, 74.48 g (1.2 mol) of ethylene glycol, 500 ml of toluene and a catalytic amount of p-toluenesulfonic acid was heated at reflux in a flask equipped with a Dean-Stark trap for 1 hour and 25 minutes. The solution was cooled, treated with K2CO3, filtered, and distilled to yield 122.9 g of product; bp=163°-5° C./mm.

reactant | benzaldehyde | 1.0 mol, 106.12 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethylene glycol | 1.2 mol, 74.48 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Phenyl-1,3-dioxolane | 122.9 g | C1(=CC=CC=C1)C1OCCO1 | C9H10O2
